### PR TITLE
[Merged by Bors] - feat: add lemma relating Set.encard to tsum over ennreal 

### PR DESCRIPTION
**Pull request by edegeltje**
two lemmas: `s.tsum (1:ENNReal) = s.encard` and `s.tsum c = s.encard * c`, where `c:ENNReal` and `s : Set α`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/InfiniteSum/ENNReal.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+  else
+  have : Infinite s := by exact infinite_coe_iff.mpr hfin
+  rw [tsum_const_eq_top_of_ne_zero (by norm_num)]
+  rw [Set.encard_eq_top_iff.mpr hfin]
+  simp only [ENat.toENNReal_top]
+
+lemma tsum_const_eq' {α : Type*} (s : Set α) (c : ℝ≥0∞) :
+    ∑' (_:s), (c : ℝ≥0∞) = s.encard * c := by
+  nth_rw 1 [← one_mul c]
+  rw [ENNReal.tsum_mul_right,tsum_one_eq']
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/ENNReal.lean:59]: Similar ideas, but note how we're now using the `simp` lemma from above
```suggestion
@[simp]
lemma tsum_set_const_eq (c : ℝ≥0∞) :
    ∑' (_ : s), (c : ℝ≥0∞) = s.encard * c := by
  rw [← one_mul c, ENNReal.tsum_mul_right]
  simp
```

**Review by j-loreaux — COMMENTED** [review]
Thanks! There's some simplification we can do here. I tried to explain my thought process. Let me know if you have questions.

File: Mathlib/Topology/Algebra/InfiniteSum/ENNReal.lean (hunk 1 above)
Comment (edegeltje) [reply Mathlib/Topology/Algebra/InfiniteSum/ENNReal.lean:59]: surely not having a simp makes the proof more robust?

Comment (j-loreaux) [reply Mathlib/Topology/Algebra/InfiniteSum/ENNReal.lean]: In this particular case, it's not really a big deal, you can leave it how you had it if you prefer.

However, to answer your question, I would say two things:

1. Given the choice between say `rw [lem1, lem2, lem3, lem4, lem5]` and `simp`, I would greatly prefer the latter for readability and proof comprehension.
2. Given the same choice, I would again prefer `simp` (as a *closing* tactic only) for robustness, because it is not sensitive to changes in lemma names. Name changes are much more common than moving a given lemma into or out of the `simp` set.

In this case, I was opting for `simp` because it conveniently avoided the need to do an `nth_rw` (because even though it rewrites the rhs too, that gets `simp`ed away). But again, the proof you had here was fine.

File: Mathlib/Topology/Algebra/InfiniteSum/ENNReal.lean [hunk 2]
```diff
@@ -0,0 +1,42 @@
...
+lemma tsum_set_one_eq : ∑' (_ : s), (1 : ℝ≥0∞) = s.encard := by
+  obtain (hfin | hinf) := Set.finite_or_infinite s
+  · lift s to Finset α using hfin
+    simp [tsum_fintype]
+  · have : Infinite s := infinite_coe_iff.mpr hinf
+    rw [tsum_const_eq_top_of_ne_zero one_ne_zero, encard_eq_top hinf, ENat.toENNReal_top]
+
+@[simp]
+lemma tsum_set_const_eq' (c : ℝ≥0∞) :
+    ∑' (_:s), (c : ℝ≥0∞) = s.encard * c := by
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/InfiniteSum/ENNReal.lean:38]:
```suggestion
lemma tsum_set_const_eq (c : ℝ≥0∞) : ∑' (_:s), (c : ℝ≥0∞) = s.encard * c := by
```

**Comment by j-loreaux** [comment]
bors d+
